US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-2,5-dimethoxybenzenesulfonamide hydrochloride (Scheme 3)
The compound was synthesized from of N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide and 2,5-dimethoxybenzenesulfonylchloride (64 mg, 0.27 mmol) to give 14 mg as purple solid. M+1 547.3 Calcd 547.16. 1HNMR δ 7.71-7.00 (m, 9H), 6.48 (dd, 1H), 6.16 (d, 1H), 4.04 (s, 3H), 3.68 (s, 3H), 3.56 (app t, 2H), 3.33 (app t, 2H), 3.17 (app t, 2H), 3.11 (app t, 2H), 2.03-1.95 (m, 2H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C22H30N4O4S
reactant | 2,5-dimethoxybenzenesulfonylchloride | 0.27 mmol, 64 mg | COC1=C(C=C(C=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
product | N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-2,5-dimethoxybenzenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=C(C=CC(=C1)OC)OC)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C25H30N4O6S2.ClH/c1-34-20-10-12-24(35-2)25(18-20)37(32,33)27-22-11-9-19(29-15-6-13-26-14-16-29)17-23(22)28-36(30,31)21-7-4-3-5-8-21;/h3-5,7-12,17-18,26-28H,6,13-16H2,1-2H3;1H
